US07335660B2
d) 3-{[(1S)-1-(2-{[tert-Butyl(diphenyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]methyl}-1,3-oxazolidin-2-one
To a stirred solution of [(1S)-1-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]methanol (0.30 g, 0.67 mmol) in dry diethyl ether (5 mL) and triethylamine (0.11 mL, 0.80 mmol) was added methanesulfonyl chloride (0.057 mL, 0.74 mmol), and the mixture stirred for 2 h under nitrogen. In a separate flask, sodium hydride (60% suspension in oil) (0.107 g, 2.68 mmol) was added to a stirred solution of 1,3-oxazolidin-2-one (0.175 g, 2.1 mmol) and the mixture heated at 50° C. for 2 h. To this solution was added the filtered solution of the mesylate and the mixture heated at 50° C. with stirring for a further 1.5 h, then stirred at room temperature overnight. Ethyl acetate and water were added to the reaction, the organic layer washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The crude product was purified by flash chromatography on silica, eluting with ethyl acetate/hexane (1:99 to 60:40), to yield the title compound.

reactant | [(1S)-1-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]methanol | 0.67 mmol, 0.30 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)CO | C28H34O3Si
reactant | triethylamine | 0.80 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.74 mmol, 0.057 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydride | 2.68 mmol, 0.107 g | [H-].[Na+]
reactant | 1,3-oxazolidin-2-one | 2.1 mmol, 0.175 g | O1C(NCC1)=O | C3H5NO2
reactant | mesylate | S(C)(=O)(=O)[O-]
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{[(1S)-1-(2-{[tert-Butyl(diphenyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]methyl}-1,3-oxazolidin-2-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)CN2C(OCC2)=O | C31H37NO4Si
